US08492378B2
5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol
A suspension of benzothiazole-6-carbohydrazide trifluoroacetate (4.92 g, 16.0 mmol), carbon disulfide (2.41 mL, 40.0 mmol) and triethylamine (5.58 mL, 40.0 mmol) in ethanol (60 mL) was heated under reflux for 1.5 hr. After cooling, the reaction mixture was diluted with ethyl acetate/tetrahydrofuran, washed with 1M hydrochloric acid and water, and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran to give the title compound (3.11 g, yield 83%) as pale-yellow crystals.

reactant | benzothiazole-6-carbohydrazide trifluoroacetate | 16.0 mmol, 4.92 g | FC(C(=O)O)(F)F.S1C=NC2=C1C=C(C=C2)C(=O)NN
reactant | carbon disulfide | 40.0 mmol, 2.41 mL | C(=S)=S | CS2
reactant | triethylamine | 40.0 mmol, 5.58 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol | 3.11 g, yield 83% | S1C=NC2=C1C=C(C=C2)C2=NN=C(O2)S | C9H5N3OS2
